US07691902B2
Step a: 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride
To an oven-dried round bottom flask containing 1-(benzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxylic acid (A-8) (618 mg, 3.0 mmol) and CH2Cl2 (3 mL) was added thionyl chloride (1.07 g, 9.0 mmol) and N,N-dimethylformamide (0.1 mL). The reaction mixture was stirred at ambient temperature under an Ar atmosphere until the gas evolution ceased (2-3 h). The excess thionyl chloride was removed under vacuum and the resulting residue dissolved in CH2Cl2 (3 mL). The mixture was used without further manipulation.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxylic acid | 3.0 mmol, 618 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | thionyl chloride | 9.0 mmol, 1.07 g | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
